US06696418B1
To a solution of 1.52 gm of BOC-D-Trp (5 mmol), 1.89 gm of Lys(Z)-OtBu HCl (5 mmol), 1.01 gm of hydroxybenzotriazole (7.5 mmol) and 1.83 gm of 4-dimethylaminopyridine (15 mmol) in 450 mL of methylene chloride was added 2.22 gm (11.6 mmol) of 1,3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride. After stirring for 15 hours 300 mL more methylene chloride was added to the reaction, and it was washed four times with 100 mL portions of 50% saturated aqueous citric acid solution, once with 100 mL of 50% saturated sodium bicarbonate solution, once with 100 mL of saturated brine (NaCl), dried over anhydrous magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield 2.95 gm (94%) of BOC-D-Trp-Lys(CBZ)-OtBu. (see Scheme 1A, for reaction of reactants 5 and 4→3).

reactant | BOC-D-Trp | 5 mmol, 1.52 gm | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O4
reactant | Lys(Z)-OtBu HCl | 5 mmol, 1.89 gm | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C.Cl
reactant | hydroxybenzotriazole | 7.5 mmol, 1.01 gm | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1,3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 11.6 mmol, 2.22 gm | Cl.CNC(CCNC)N=C=NCC
catalyst | 4-dimethylaminopyridine | 15 mmol, 1.83 gm | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 450 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | BOC-D-Trp-Lys(CBZ)-OtBu | 2.95 gm, 94% | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H46N4O7
